US08580973B2
An amount of 21.4 g (0.214 mol) of 2,2-difluoro-1-chloroethane and 20 g (0.107 mol) of potassium phthalimide are dissolved in 95 g of N,N-dimethylformamide. The reaction mixture is stirred in an autoclave under pressure at 120° C. for 12 h. After the end of the reaction, cooling is carried out to ambient temperature and the solvent is exhaustively removed under vacuum. The remaining residue is treated with 100 ml of water and the solid is filtered off. The filter residue is washed twice with water and the product is dried under vacuum. An amount of 22.5 g of 2-(2,2-difluoroethyl)-1H-isoindole-1,3(2H)-dione with a purity of only 59% is obtained. This corresponds to a yield of 59% of theory.

reactant | 2,2-difluoro-1-chloroethane | 0.214 mol, 21.4 g | FC(CCl)F | C2H3ClF2
reactant | potassium phthalimide | 0.107 mol, 20 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
solvent | N,N-dimethylformamide | 95 g | CN(C=O)C | C3H7NO
product | 2-(2,2-difluoroethyl)-1H-isoindole-1,3(2H)-dione | 22.5 g, yield of 59% | FC(CN1C(C2=CC=CC=C2C1=O)=O)F | C10H7F2NO2
